US05763437
To a suspension of 2-methylnicotinic acid-1-oxide (0.701 g) and N,N-bis(2-oxo-3-oxazolidinyl)phosphinic chloride (1.243 g) in dichloromethane (30 ml) was added dropwise a solution of triethylamine (0.570 g) in dichloromethane (5 ml) and followed a solution of pyrrolidine (0.407 g) in dichloromethane (5 ml) under stirring at cooling in an ice-bath. After completion of the addition, the mixture was allowed to stand to room temperature overnight. The reaction mixture was washed with water and dried over sodium sulfate. Removal of the solvent gave a crude product. The crude product was purified by column chromatography on silica gel with a mixture of chloroform and methanol (50:1) as an elunet to give 3-(1-pyrrolidinylcarbonyl)-2-methylpyridine-1-oxide (0.530 g).

reactant | 2-methylnicotinic acid-1-oxide | 0.701 g | CC1=C(C(=O)O)C=CC=[N+]1[O-] | C7H7NO3
reactant | N,N-bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 1.243 g | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | triethylamine | 0.570 g | C(C)N(CC)CC | C6H15N
reactant | pyrrolidine | 0.407 g | N1CCCC1 | C4H9N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-(1-pyrrolidinylcarbonyl)-2-methylpyridine-1-oxide | 0.530 g | N1(CCCC1)C(=O)C=1C(=[N+](C=CC1)[O-])C | C11H14N2O2
